US06599925B2
5-Chloro-2-(6-methoxy-naphth-2-yl)-1-benzofuran
A mixture of 2-ethynyl-6-methoxynaphthalene (1.82 g, 10 mmol), 2-bromo-4-chlorophenol (2.01 g, 10 mmol), copper (I) iodide (0.1 g, 0.52 mmol), tetrakis(triphenylphosphine)palladium (0.58 g, 0.5 mmol) in triethylamine (10 mL) and diethylamine (10 mL) was heated at reflux for 1 hour under an atmosphere of nitrogen then cooled to room temperature. The solid was collected by filtration, washed with ether and dried to give the title compound as a solid (2.0 g). 1HNMR (300 MHz, DMSO-d6): δ8.4 (s, 1H), 8.0-7.9 (m, 3H), 7.75 (d, 1H, J=1.8 Hz), 7.69 (d, 1H, J=9.2 Hz), 7.46 (s, 1H), 7.38-7.32 (m, 2H), 7.24 (dd, 1H, J=9.2, 1.8 Hz), and 3.9 ppm (s, 3H).

reactant | 2-ethynyl-6-methoxynaphthalene | 10 mmol, 1.82 g | C(#C)C1=CC2=CC=C(C=C2C=C1)OC | C13H10O
reactant | 2-bromo-4-chlorophenol | 10 mmol, 2.01 g | BrC1=C(C=CC(=C1)Cl)O | C6H4BrClO
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 0.52 mmol, 0.1 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 0.58 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Chloro-2-(6-methoxy-naphth-2-yl)-1-benzofuran | 2.0 g | ClC=1C=CC2=C(C=C(O2)C2=CC3=CC=C(C=C3C=C2)OC)C1 | C19H13ClO2
